US04299772
PREPARATION OF O-Ethyl O-(Xanthen-9-one-4-yl) (2,4,6-Trichlorophenyl)phosphonate
4-Hydroxyxanthen-9-one (0.01 mole), acetonitrile (25 ml) and potassium carbonate (0.01 mole) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer. O-Ethyl (2,4,6-trichlorophenyl)phosphonochloridate (0.01 mole) in acetonitrile (6 ml) is added dropwise, with stirring, at room temperature. The reaction mixture is stirred for a period of about 48 hours at a temperature of from about 35° C. to 50° C. It is then cooled to room temperature and filtered. Solvent is stripped from the filtrate using a rotary evaporator (70° C., 15 mm Hg). The devolatilized residue is redissolved in 1/1 v/v chloroform/cyclohexane (25 ml). This solution is then slurried with silica gel (2 grams) at room temperature for a period of about 2 hours, then filtered. Solvent is stripped from the filtrate using a rotary evaporator to yield the desired product O-ethyl O-(xanthen-9-one-4-yl) (2,4,6-trichlorophenyl)phosphonate.

reactant | 4-Hydroxyxanthen-9-one | 0.01 mole | OC1=CC=CC=2C(C3=CC=CC=C3OC12)=O | C13H8O3
reactant | potassium carbonate | 0.01 mole | C([O-])([O-])=O.[K+].[K+]
reactant | O-Ethyl (2,4,6-trichlorophenyl)phosphonochloridate | 0.01 mole | ClC1=C(C(=CC(=C1)Cl)Cl)P(OCC)(=O)Cl | C8H7Cl4O2P
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | O-ethyl O-(xanthen-9-one-4-yl) (2,4,6-trichlorophenyl)phosphonate | ClC1=C(C(=CC(=C1)Cl)Cl)P(OCC)(OC1=CC=CC=2C(C3=CC=CC=C3OC12)=O)=O | C21H14Cl3O5P
